US07060827B2
2,4-Dichloro-5-fluoropyrimidine (33 mg, 0.2 mmol) was dissolved in a mixture of MeOH (1 ml) and H2O (0.1 ml). 2-Methyl-5-nitroaniline (122 mg, 0.8 mmol) was added and the mixture was refluxed for 2 days (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 9:1) to give N2,N4-bis(2-methyl-5-nitrophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6+CD3OD): δ 8.31 (d, 1H, J=2.3 Hz), 8.20 (d, 1H, J=2.3 Hz), 8.06 (d, 1H, J=3.5 Hz), 7.91 (dd, 1H, J=2.3, 8.2 Hz), 7.65 (dd, 1H, J=2.9, 8.8 Hz), 7.41 (m, 1H), 7.28 (d, 1H, J=8.2 Hz), 2.28 (s, 3H), 2.24 (s, 3H); LCMS purity: 87.4%; MS (m/e): 399.20 (M+, 100).

reactant | 2,4-Dichloro-5-fluoropyrimidine | 0.2 mmol, 33 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-Methyl-5-nitroaniline | 0.8 mmol, 122 mg | CC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O2
solvent | MeOH | 1 ml | CO | CH4O
solvent | H2O | 0.1 ml | O | H2O
product | N2,N4-bis(2-methyl-5-nitrophenyl)-5-fluoro-2,4-pyrimidinediamine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=C(C(=N1)NC1=C(C=CC(=C1)[N+](=O)[O-])C)F | C18H15FN6O4
